US08110585B2
methyl 2-(acetylamino)-3-nitrobenzoate
A solution of methyl anthranilate (21.0 mL, 162 mmol) in acetic anhydride (170 mL) was stirred at room temperature for 1 hr. To the reaction mixture was added dropwise a mixture of acetic anhydride (35 mL), acetic acid (30 mL) and 60% nitric acid (50 ml, 162 mmol) at 10-15° C. over 2 hr. The reaction mixture was stirred at 10-15° C. for 2.5 hr, and poured into ice-cold water. The resulting solid was collected by filtration, washed with water, and after recrystallization (chloroform/methanol), the crystals were collected by filtration. The filtrate was extracted with methylene chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was crystallized from ether to give the title compound (20.0 g, yield 52%).

reactant | methyl anthranilate | 162 mmol, 21.0 mL | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | nitric acid | 162 mmol, 50 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 170 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 35 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-(acetylamino)-3-nitrobenzoate | 20.0 g, yield 52% | C(C)(=O)NC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C10H10N2O5
